US07855211B2
2,4-Dibromo-1-nitro-benzene
Add drop wise fuming nitric acid (101.40 mL) to a solution of 1,3-dibromo benzene (102.51 mL) in concentrated sulfuric acid (322.79 mL) and water (62.39 mL) at 0° C. Warm to RT and stir for 12 h. Pour the reaction on ice-water (1500 mL). Filter the resulting yellow solid under vacuum and dry to afford 178.46 g of the title compound. MS (ES+): m/z=281 (M+H)+.

reactant | nitric acid | 101.40 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1,3-dibromo benzene | 102.51 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | sulfuric acid | 322.79 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 62.39 mL | O | H2O
product | 2,4-Dibromo-1-nitro-benzene | 178.46 g | BrC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
